US04741760
(c) Production of 4-amino-2,6-dichloro-5-methylpyrimidine
39.5 g (0.2 mol) of 5-methyl-2,4,6-trichloropyrimidine are dissolved in 250 ml of dimethoxyethane, and ammonia gas is then introduced at room temperature until the solution is saturated. A white suspension is formed, which is stirred for 12 hours at room temperature; it is subsequently concentrated in a rotary evaporator, and 200 ml of water are added to the residue. The formed suspension is filtered and the precipitate is dried. The mother liquor is concentrated to half the volume, filtered, and the precipitate is dried. There are thus obtained 26.4 g of crude product, which is recrystallised from acetonitrile/water (5:1); m.p. 193°-194° C. (yield=75% of theory).

reactant | 5-methyl-2,4,6-trichloropyrimidine | 0.2 mol, 39.5 g | CC=1C(=NC(=NC1Cl)Cl)Cl | C5H3Cl3N2
reactant | ammonia | N | H3N
solvent | dimethoxyethane | 250 ml | C(OC)COC | C4H10O2
product | 4-amino-2,6-dichloro-5-methylpyrimidine | yield=75% | NC1=NC(=NC(=C1C)Cl)Cl | C5H5Cl2N3
